US05827868
B. 3-Allyl-4-(benzyloxy)-3-hydroxy-1-butanol
A solution of 4-benzyloxy-2,3-epoxy-1-butanol (6.28 g, 32.37 mmol) in anhydrous tetrahydrofuran (75 mL) was added dropwise at -40° C. over a period of 45 minutes, to a 2M solution of allyl magnesium chloride (48.5 mL, 97 mmol) and tetrahydrofuran (50 mL). The solution was stirred at -40° C. for 1 hour, warmed to 0° C. and quenched by addition of aqueous ammonium chloride solution. The tetrahydrofuran layer was separated and the aqueous layer was extracted with ethyl acetate (three times). The combined organic extract was dried (magnesium sulfate), filtered and concentrated to obtain a mixture of compounds A and B.

reactant | 4-benzyloxy-2,3-epoxy-1-butanol | 32.37 mmol, 6.28 g | C(C1=CC=CC=C1)OCC1C(CO)O1 | C11H14O3
reactant | allyl magnesium chloride | 97 mmol, 48.5 mL | C(C=C)[Mg]Cl
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-Allyl-4-(benzyloxy)-3-hydroxy-1-butanol | C(C=C)C(CCO)(COCC1=CC=CC=C1)O | C14H20O3
